US06734180B1
4-(5-methoxyindan-2-yl)amino-5-methylthieno[2,3-d]pyrimidine
Using 2-amino-5-methoxyindan (90 mg) synthesized in b) in the above Preparation Example 1, 4-chloro-5-methylthieno[2,3-d]pyrimidine (90 mg, 0.50 mmol), triethylamine (0.23 ml, 1.7 mmol) and ethanol (1 ml), a similar procedure to b) in Example 19 was carried out. The product obtained was purified by silica gel chromatography (hexane:ethyl acetate=4:1) to obtain the title compound (20 mg, 0.064 mmol) having the following physical properties:

reactant | 2-amino-5-methoxyindan | 90 mg | NC1CC2=CC=C(C=C2C1)OC | C10H13NO
reactant | 4-chloro-5-methylthieno[2,3-d]pyrimidine | 0.50 mmol, 90 mg | ClC=1C2=C(N=CN1)SC=C2C | C7H5ClN2S
reactant | triethylamine | 1.7 mmol, 0.23 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | 4-(5-methoxyindan-2-yl)amino-5-methylthieno[2,3-d]pyrimidine | 0.064 mmol, 20 mg | COC=1C=C2CC(CC2=CC1)NC=1C2=C(N=CN1)SC=C2C | C17H17N3OS
